US05681839
3,4,4a,5,6,7,8,8a-Octahydro-6-((4-hydroxyphenyl)methyl)-3-methylquinolin-2[1H]-one
3,4,5,6,7,8-Hexahydro-6-((4-hydroxyphenyl)methyl)-3-methylquinolin-2[1H]-one (1.5 g) was suspended in triethylsilane (3 ml) and TFA (3 ml) was added. The mixture was left to stir for 30 minutes then was evaporated under reduced pressure. The residue was dissolved in chloroform and washed with sodium bicarbonate solution, dried (MgSO4) and evaporated. The residue was recrystallised from isopropanol to give the title compound (0.6 g,) mp. 217°-223° C.

reactant | 3,4,5,6,7,8-Hexahydro-6-((4-hydroxyphenyl)methyl)-3-methylquinolin-2[1H]-one | 1.5 g | OC1=CC=C(C=C1)CC1CC=2CC(C(NC2CC1)=O)C | C17H21NO2
reactant | TFA | 3 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | triethylsilane | 3 ml | C(C)[SiH](CC)CC | C6H16Si
product | 3,4,4a,5,6,7,8,8a-Octahydro-6-((4-hydroxyphenyl)methyl)-3-methylquinolin-2[1H]-one | 0.6 g | OC1=CC=C(C=C1)CC1CC2CC(C(NC2CC1)=O)C | C17H23NO2
